Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
SOB, CP and seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ yo right handed female with past medical
history of anxiety, depression, and migraines who presented to
the ED today because of shortness of breath and epigastric pain
and went on to have a seizure in the emergency room.  

___ first began not feeling well on ___. 
She had a headache that was bifrontal that spread temporally 
that
she took motrin for without reflief.  She was unable to say how
the quality of the headache was different but it was a higher
severity than her usual migraines.  She went to ___
where she was nausea and had several episodes of emesis.  She 
was
given Reglan and morphine and she was discharged home without a
headache.

On ___, the headache returned around 2pm where she took
motrin, took a shower and was able to go out to eat.  She felt
funny when she returned home because she began feeling very
hungry even though she just had a huge meal.  She went to sleep,
had trouble sleeping through the night and in the morning, she
woke up at the usual time with epigastric pain of a burning
quality.  She has had epigastric pain in the past that she 
thinks
is related to reflux.  She went shopping at the outlets with her
children.  While there she began to feel very anxious mostly
because she was far from home and not feeling well.  She called
her PCP who directed to come to ___.  There she was
short of breath and was having epigastric pain with deep 
breaths.
An EKG was normal. She was directed to the ED because there was
concern that she may have a PE due to the SOB.

She went to the wrong location for the ED and when she realized
she became very anxious, started to hyperventilate.  She was
witnessed by the security guard to look ill.  She felt
lightheaded at the time and slowly collapsed to the floor.  She
did not loose consciousness and she remembers the event.  There
were no convulsions associated with that.  She was taken by
ambulance to ___ ED.  BG was ___.

While she was in the emergency room, she had a witnessed seizure
where she abruptly told her daughter to leave the room.  Her
daughter saw her eyes roll up and her head turn to the right. 
She went out to get help when the seizure progressed to a
generalized tonic clonic seizure lasting ___ minutes that
self-resolved at 7:15pm.  There was urinary incontinence.  She
had postictal confusion that is resolving but still persists
during the time of this consult.

Now ___ is feeling very fatigued but feels that the
shortness of breath and epigastric discomfort have disappeared.

ROS:  
___ recalls one episode that she thought that may be
concerning for seizure.  This occurred ___ this year when
she was taking care of kids in the daycare in her home.  During
their nap time she normally will stay close by in the room next
store.  However, she woke up downstairs in a different room in
the bed but does not remember how she got there.  She woke up
with severe right shoulder pain and multiple cuts in her mouth
for unexplained reasons.  She did not seek medical help at this
time.  She went to the ED several days following and there was
felt to be no fracture in her shoulder or arm.  There have been
no other events like this.  There is no history of starring
spells.

There are no recent fevers, cough, rash, or tick bites.

She takes Ativan ___ times per week but she thinks she only took
it once this week and is not sure which day.

Negative for: 
diplopia, dysarthria, vertigo/lightheadedness; dysphagia,
numbness/tingling, weakness, aphasia, loss of balance.  Also
negative for fever/chills/night sweats, CP, SOB, palpitations,
abd pain, N/V/D/C, URI sx, wt changes, cough, UTI sx, back pain,
neck pain.  

 
Past Medical History:
1) migraines
2) Anxiety- She reports taht this began over the last years 
since
her father passed away.  She has had panic attacks.  She has 
been
taking Lorazepam 2 tabs ___ times per week.  
3) Depression- she denies any history of suicidality.  She has
never been hospitalized.
4) ?Hyperthyroidism- She reports that she saw this written on
some of her health papers but is not aware of this diagnosis.
5) Chronic right shoulder pain- She was planned to have MRI
shoulder today at 6pm.

 
Social History:
___
Family History:
There is no family history of seizures.   Her father passed away
this year from CHF, liver disease and renal failure.  Her
grandfather had a ___ at age ___.  She has 6 children who
are all healthy.  There is no family history of sudden death or
heart attack.  No one in the family with thyroid disease.

 
Physical Exam:
Admission exam:
Vitals: 98.2 70 150/76 20 100% 2L Nasal Cannula (discontinued
prior to consult). 
Gen:  
HEENT: Sclera anicteric. Oropharynx benign. Mucous membranes
moist. 
Neck:  No carotid bruits. Supple. No LAD.
Cor: RRR, nl S1, S2. No m/r/g appreciated.
Chest: CTAB. 
Abdomen: Soft, NTND.
Back: No spinous process tenderness. No CVA tenderness. 
Ext: Warm, no edema. 

Neuro:
MS:
Gen: Alert, interactive but slow to tell story and looeses her
train of thought then repeated herself several times, normal
affect.
Orientation:  Full.
Attention: Names days of week backwards correctly.  She could
only due one minus 7 in series 7.
___:  Fluent ___ paraphasic errors; Follows simple and
complex commands without L/R confusion. Repetition intact 
Memory:
___ at registration and at ___ at 5 minutes. Normal fund of
knowledge.
Calculations: Intact (9 quarters = $2.25).
Praxis: Able to pantomime brushing hair and teeth.

CN:
II: Visual fields full to confrontation. Pupils equally round &
reactive to light 4 mm to 2 mm. No relative afferent pupillary
defect. 
III,IV,VI: EOMI ___ nystagmus. No ptosis.
V: Sensation intact to light touch. Bite strength equal
bilaterally. 
VII: Face symmetric without weakness.
VIII: Hears finger rub equally and bilaterally.
IX,X: Voice normal. Palate elevates symmetrically.
XI: SCM and trapezii full.
XII: Tongue protrudes midline.

Motor:Normal bulk and tone; no tremor, rigidity, or
bradykinesia. No pronator drift. Finger tapping normal. Full
strength in bilateral elbow flexion and extension, wrist and
finger flexion and extension, APB, FDI, ADM, hip flexors, knee
flexion and extension, ankle dorsi- and plantarflexion, ___. 

It was difficult to asses right deltoid due to pain but left was
full strength.  There was mild left sided IP weakness of 5-.

Coord: Rapid alternating and finger-to-nose-finger movements
intact. No truncal ataxia.

Reflex:Normal and symmetric (2+) in bilat biceps, triceps,
brachioradialis, and patella and 1+ in ankles. Toes downgoing
bilat. 

___:   LT and temperature intact. Joint position intact. 

Gait:Posture, stride, and arm-swing normal. Able to walk on
heels and toes. Romberg negative.  She defferred to try to walk
tandem.
.
.
Discharge:
Normal exam save pain limiting exam of her right shoulder.

 
Pertinent Results:
Admission labs:
___ 05:50PM BLOOD WBC-10.2 RBC-4.72 Hgb-12.9 Hct-39.2 
MCV-83 MCH-27.4 MCHC-33.0 RDW-13.3 Plt ___
___ 05:50PM BLOOD Neuts-75.1* ___ Monos-2.4 Eos-0.2 
Baso-0.6
___ 05:50PM BLOOD Glucose-99 UreaN-8 Creat-0.9 Na-139 K-3.7 
Cl-103 HCO3-24 AnGap-16
.
Other pertinent labs:
___ 05:50PM BLOOD cTropnT-<0.01
___ 02:00AM BLOOD CK-MB-4 cTropnT-<0.01
___ 09:20AM BLOOD CK-MB-4 cTropnT-<0.01
___ 06:01PM BLOOD D-Dimer-264
___ 02:00AM BLOOD TSH-0.31
___ 05:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
.
CK trend:
___ 05:50PM BLOOD CK(CPK)-268*
___ 02:00AM BLOOD CK(CPK)-1044*
___ 09:20AM BLOOD CK(CPK)-1259*
___ 06:30PM BLOOD CK(CPK)-1480*
.
Discharge labs:
___ 06:30PM BLOOD Glucose-95 UreaN-9 Creat-0.9 Na-139 K-3.5 
Cl-105 HCO3-23 AnGap-15
.
.
Urine:
___ 08:20PM URINE Color-Straw Appear-Hazy Sp ___
___ 08:20PM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-10 Bilirub-NEG Urobiln-NEG pH-5.0 Leuks-NEG
___ 08:20PM URINE RBC-<1 WBC-2 Bacteri-FEW Yeast-NONE Epi-5
___ 08:20PM URINE Mucous-OCC
___ 08:20PM URINE UCG-NEGATIVE
___ 07:09AM URINE UCG-NEGATIVE
___ 08:20PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG mthdone-NEG
.
.
Cardiology:
ECGStudy Date of ___  5:52:38 ___
 
Normal sinus rhythm. Tracing is within normal limits. No 
previous tracing
available for comparison.
 
Read ___
 ___
___
.
.
Neurophysiology:
EEG ___
Formal report pending
Prelim: No epileptiform activity. Normal EEG.
.
.
Radiology:
CHEST (PA & LAT)Study Date of ___ 7:20 ___
FINDINGS: Bibasilar atelectasis is seen. No focal consolidation, 
pleural
effusion, or evidence of pneumothorax is seen. The cardiac 
silhouette is not
enlarged. The mediastinum and hilar contours are unremarkable.
 
IMPRESSION: No acute cardiopulmonary process.
.
CT HEAD ___ CONTRASTStudy Date of ___ 9:36 ___
FINDINGS:
 
There is no acute intracranial hemorrhage, edema, mass effect, 
or acute
territorial infarction. The ventricles and sulci are normal in 
size and
configuration. The paranasal sinuses and mastoids are clear. 
There are no
fractures. There is a subcutaneous left occipital nodule, likely 
sebaceous
cyst (series 2, image13) and a 0.7 cm right posterior occipital 
subcutaneous
lymph node vs sebaceous cyst (series 2, image5).
 
IMPRESSION:
No acute intracranial process.
.
MR HEAD W & ___ CONTRASTStudy Date of ___ 2:55 AM
FINDINGS:
 
There is no evidence of an enhancing intra-axial or extra-axial 
mass. There
is no evidence of edema, mass effect, abnormal diffusion, or 
blood products in
the brain parenchyma. No focal abnormalities are seen in the 
medial temporal
lobes on coronal imaging. The ventricles and sulci are normal in 
size and
configuration. The sella is slightly expanded with cerebrospinal 
fluid, and
the pituitary gland appears flattened and small. The major 
intracranial flow
voids are grossly preserved.
 
There is a 12 x 8 mm oval, well-circumscribed lesion in the 
subcutaneous soft
tissues overlying the right maxilla, with low signal on 
T1-weighted images and
high signal on T2-weighted images, likely a subcutaneous cyst 
(images 4:4 and
15:4).
 
IMPRESSION:
 
1. No cause of seizures is identified.
 
2. Partially empty sella, unusual for the patient's age.
.
SHOULDER (AP, NEUTRAL & AXILLARY) TRAUMA BILATStudy Date of 
___:___ AM
Three views of each shoulder show normal soft tissue and bony 
structures.
There is no evidence of fracture or dislocation. No soft tissue
calcifications are seen.
 
IMPRESSION:
 
Normal findings.
.
MR SHOULDER ___ CONTRAST RIGHTStudy Date of ___ 5:30 ___
Prelim read:
Chronic right rotator cuff tear
 
Brief Hospital Course:
___ yo right handed female who has a history of anxiety, 
depression who presented with anxiety, shortness of breath and 
epigastric chest pain and while in the emergency room had a 
seizure. The seizure semiology seemed to have a focal onset with 
right head turning followed by generalized convulsions. It was 
short lived and spontaneously resolved although was preceded by 
abruptly telling her daughter to leave and in the setting of 
anxiety. Patient had another event concerning for seizure back 
in ___. It is possible that the lorazepam that she was taking 
for anxiety may have been treating an underlying seizure 
disorder and when she reduced her dose recently, she lowered her 
seizure threshold. She was also taking mirtazapine which can 
lower seizure threshold.
CP was likely anxiety/panic attack and CEs negative. MRI-head 
was normal save partially empty sella, unusual for the patient's 
age. EEG showed no epileptiform discharges. Patient was started 
on keppra to bridge lamotrigine. MRI shoulder showed a chronic 
rotator cuff tear and was advised t wear a right arm sling. 
Patient has orthopedic and neurology follow-up and was advised 
to see her PCP ___ ___ days. Patient was informed that under 
___ Law she cannot drive for 6 months following her 
seizure. In addition, she was advised not to hold or bath babies 
given risk of injury if she were to have another seizure. Given 
rising CK with preserved renal function (likely secondary to 
muscle breakdown post seizure) she should have her labs repeated 
on ___.
.
.
# Likely seizures: Patient likely has seizures. Patient was 
noted to have a likely focal seizure with secondary 
generalisation in the ED. What gives credence to this being a 
true seizure is her elevated and rising CK which likely 
represents muscle breakdown during convulsions. Patient had 
urinary incontinence and postictal confusion. Patient likely had 
a prior seizure back in ___ where she found herself waking in 
her bed without knowing how she got there and with marked pain 
in her right shoulder which again likely represents sequelae 
from a generalised seizure. Labs were otherwise unremarkable 
other than rising CK. TSH was normal as was CXR, UA and 
toxicology screen and CT-head. MRI head was normal save 
partially empty sella, unusual for the patient's age. Patient 
had an EEG with no epileptiform discharges on prelim read. 
Patient as continued on lorazepam although home dose was unclear 
and mirtazapine was stopped and restarted on discharge. Patient 
was treated with seizure precautions and did not have any 
further seizures in house. Patient was started on keppra for 
bridging and an increasing regime of lamotrigine to start at 
25mg HS and increase by 25mg each week to 150mg bid and stop 
keppra after reaching target dose. Patient was deemed fir for 
discharge and was discharged on ___. Patient was encouraged 
to see her PCP ___ ___ days and has neurology follow-up on 
___. Patient was informed that under ___ Law she 
cannot drive for 6 months following her seizure. In addition, 
she was advised not to hold or bath babies given risk of injury 
if she were to have another seizure. 
.
# Right chronic rotator cuff tear: Patient has noted pin and 
indeed has presented to the ED due to right shoulder pain and 
limitation of movement. Patient was treated initially with 
ibuprofen and percocet and latterly PRN low dose po dilaudid. 
Patient had a rising CK suggesting muscle breakdown post seizure 
and renal function was not compromised. Shoulder XR showed no 
fracture. There was evidence of chronic right rotator cuff tear 
on the prelim read of her MRI shoulder. She was therefore 
treated with a right arm sling and regular diclofenac with 
ranitidine cover in addition to standing acetaminophen. Patient 
has follow-up in the ___ clinic on ___. 
.
Rising CK: Patient had a rising CK suggesting muscle breakdown 
post seizure and renal function was not compromised. CK on 
discharge was 1480. Patient was advised to have her Chem 7 and 
CK repeated on ___.
.
# CP and SOB: This was likely anxiety/panic attack. Patient had 
a normal CXR and CEs were negative. We continued PRN lorazepam 
for anxiety.
.
.
.
.
Pending results:
Final read of EEG pending at time of writing
Final read of MRI shoulder pending at time of writing
.
.
Transitional issues:
Given rising CK, patient to repeat CK and Chem 7 on ___ 
and fax to PCP.
 
Medications on Admission:
1) Lorazepam 2 tabs PRN anxiety ___ times per week
2) Mirtazepine- unknown dose, QHS. 
 
Discharge Medications:
1. Right arm sling
Please provide one sling to the right arm.
2. lorazepam 0.5 mg Tablet Sig: ___ Tablets PO three times a day 
as needed for anxiety: Per home dose.  
3. acetaminophen 500 mg Tablet Sig: ___ Tablets PO four times a 
day for 2 weeks.  
4. diclofenac sodium 25 mg Tablet, Delayed Release (E.C.) Sig: 
Two (2) Tablet, Delayed Release (E.C.) PO TID (3 times a day).
Disp:*84 Tablet, Delayed Release (E.C.)(s)* Refills:*2*
5. lamotrigine 25 mg Tablet Sig: Six (6) Tablet PO every twelve 
(12) hours: Start at 25 mg at night for 1 week. 25 mg BID for 
next week. 25 mg in am and 50 mg in pm the week after, till you 
reach the goal of 150 BID.
Disp:*150 Tablet(s)* Refills:*2*
6. ranitidine HCl 150 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day) for 3 weeks.
Disp:*42 Tablet(s)* Refills:*0*
7. levetiracetam 500 mg Tablet Sig: One (1) Tablet PO BID (2 
times a day) for 2 months.
Disp:*120 Tablet(s)* Refills:*0*
8. Outpatient Lab Work
Please check Chem 7 and CK on ___ and fax result to  ___ 
___ on ___.

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnoses:
Seizures
Chronic right rotator cuff tear
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you during you stay at the 
___. You presented after having 
a seizure in the ED. It seems likely that you had a previous 
episode back in ___. It is unclear whether you seizure may have 
been precipitated by not taking as much lorazepam as if you 
regularly take lorazepam and then take less, this can have an 
effect on your brain and increase the risk of seizure. You were 
started on anti-seizure medications. One of these called 
lamotrigine should be increased slowly as follows: 
Increase by 25mg each week in the fashion of 25mg once daily 
week 1, then 25mg in the morning and 25mg at night during week 
2, 25mg in the morning and 50mg at night in week 3 etc. 
You should also take Keppra 500mg twice daily until you reach 
the therapeutic dose of lamotrigine 150mg twice daily.
You have out-patient follow-up in clinic.
In addition, likely during your previous seizure in ___ you 
injured your shoulder. X-ray here showed no fracture and MRI 
showed evidence of an old rotator cuff tear. You should use a 
sling for your right arm and we have started you on potent 
anti-inflammatory medication called diclofenac to help with the 
pain. as this medication can be quite irritant to the stomach, 
you should take acid suppressive medication called ranitidine 
only while you need this medication. In addition, you should 
take full dos Tylenol to help with the pain. You have follow-up 
with the ___ clinic and with neurology as below. By 
___ Law you cannot drive for 6 months following a 
seizure. In addition, you should not hold babies or bath babies 
as there is a risk of injury if you were to have another 
seizure. You should have your blood tests repeated on ___.
.
Medication changes: 
We STARTED lamotrigine 25mg at night and Increase by 25mg each 
week in the fashion of 25mg once daily week 1, then 25mg in the 
morning and 25mg at night during week 2, 25mg in the morning and 
50mg at night in week 3 etc until you reach the target dose of 
150mg twice daily.
We STARTED Keppra another anti-seizure medication at 500mg twice 
daily which you should continue until told to stop by neurology
We STARTED diclofenac 50mg three times daily for your shoulder 
pain - be sure to take ranitidine for this
We STARTED ranitidine 150mg twice daily for acid suppression as 
above
We STARTED Tylenol 1g four times daily for your shoulder pain
 
Followup Instructions:
___